US07737153B2
2-(4-Amino-2-chlorophenoxy)-6-fluorobenzonitrile
1.00 g (7.19 mmol) of 2,6-difluorobenzonitrile is initially charged in 10 ml of acetonitrile. 1.99 g (14.4 mmol) of potassium carbonate and 1.03 g (7.19 mmol) of 3-chloro-4-hydroxyaniline are added, and the mixture is heated at reflux for 45 min. The mixture is filtered and the filtercake is washed with ethyl acetate and DCM. The solvent is removed under reduced pressure and the residue is by column chromatography (silica gel 60, gradient column: mobile phase: DCM:petroleum ether=2:1, then DCM).

reactant | 2,6-difluorobenzonitrile | 7.19 mmol, 1.00 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | potassium carbonate | 14.4 mmol, 1.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-4-hydroxyaniline | 7.19 mmol, 1.03 g | ClC=1C=C(N)C=CC1O | C6H6ClNO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-(4-Amino-2-chlorophenoxy)-6-fluorobenzonitrile | NC1=CC(=C(OC2=C(C#N)C(=CC=C2)F)C=C1)Cl | C13H8ClFN2O
